US07034039B2
Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.47 g, 1 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure and the obtained crystals crystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-tetrazol-5-yl)-1(2H)-isoquinolinone hydrochloride (0.38 g, 92.7%) as crystals.

reactant | Tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.47 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NN=NN1)=O)CC(C)C)=O | C24H34N6O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-tetrazol-5-yl)-1(2H)-isoquinolinone hydrochloride | 0.38 g, 92.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NN=NN1)=O)CC(C)C | InChI=1S/C19H26N6O2.ClH/c1-4-5-8-27-17-15-9-13(18-21-23-24-22-18)6-7-14(15)19(26)25(11-12(2)3)16(17)10-20;/h6-7,9,12H,4-5,8,10-11,20H2,1-3H3,(H,21,22,23,24);1H
